US07842696B2
6-(4-formyl-phenoxy)-nicotinonitrile (310 mg, 1.38 mmol) was dissolved in acetone-water mixture (3.5:3) (6.5 mL) and cooled to 0° C. Sulphamic acid (403 mg, 4.15 mmol) and sodium chlorite (499 mg, 5.52 mmol) dissolved in minimum amount of water were added and the resulting mixture was stirred at room temperature for half an hour. The reaction mixture was then diluted with water and extracted with ethyl acetate. The organic layer was washed with brine solution, dried over sodium sulphate and concentrated to afford 288 mg 4-(5-cyano-pyridin-2-yloxy)-benzoic acid, (85.2% yield). LCMS Purity: 83.2%,

reactant | 6-(4-formyl-phenoxy)-nicotinonitrile | 1.38 mmol, 310 mg | C(=O)C1=CC=C(OC2=NC=C(C#N)C=C2)C=C1 | C13H8N2O2
reactant | Sulphamic acid | 4.15 mmol, 403 mg | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 5.52 mmol, 499 mg | Cl(=O)[O-].[Na+]
solvent | acetone water | 6.5 mL | CC(=O)C.O
solvent | water | O | H2O
product | 4-(5-cyano-pyridin-2-yloxy)-benzoic acid | 288 mg, 85.2% yield | C(#N)C=1C=CC(=NC1)OC1=CC=C(C(=O)O)C=C1 | C13H8N2O3
